US04963587
Into a solution of 4.0 g of this product in pyridinemethylene chloride is added 8.39 g of diazabicyclo[5.4.0]undeca-7-ene. Subsequently, under cooling, a methylene chloride solution of 3.36 g of benzenesulfonyl chloride is added dropwise with stirring. After the reaction, water is added, and the organic layer is separated, followed by evaporation of the solvent. The residue is crystallized from an ethanol-n-hexane mixture, purified through silica gel column chromatography, and recrystallized from an ethyl acetate-n-hexane mixture to give 2.98 g of 5-amino-2-benzenesulfonylaminoindan.

reactant | diazabicyclo[5.4.0]undeca-7-ene | 8.39 g | N12NCCCCC2=CCCC1 | C9H16N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | benzenesulfonyl chloride | 3.36 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | O | H2O
solvent | chloride | [Cl-]
product | 5-amino-2-benzenesulfonylaminoindan | 2.98 g | NC=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=CC=C1 | C15H16N2O2S
